US07629358B2
Preparation 146: [3-(2-Amino-2-methyl-propyl)-phenyl]-acetic acid methyl ester
Acetyl chloride (154.5 g, 1.97 mol) was added to a solution of {3-[2-(2-chloro-acetylamino)-2-methyl-propyl]-phenyl}-acetic acid (preparation 48), (20 g, 0.66 mol) in methanol (350 mL) and the mixture was heated under reflux for 18 hours. The reaction mixture was then concentrated in vacuo to afford the title compound as a brown oil in 87% yield, 154.5 g. 1H NMR (300 MHz, CDCl3) δ: 7.22 (1H, m), 7.18-7.05 (3H, m), 3.71 (3H, s), 3.58 (2H, s), 2.62 (2H, s), 1.12 (6H, s) ppm; GCMS m/z 206 [M−H]−.

reactant | Acetyl chloride | 1.97 mol, 154.5 g | C(C)(=O)Cl | C2H3ClO
reactant | {3-[2-(2-chloro-acetylamino)-2-methyl-propyl]-phenyl}-acetic acid | 0.66 mol, 20 g | ClCC(=O)NC(CC=1C=C(C=CC1)CC(=O)O)(C)C | C14H18ClNO3
solvent | methanol | 350 mL | CO | CH4O
product | [3-(2-Amino-2-methyl-propyl)-phenyl]-acetic acid methyl ester | 87% yield | COC(CC1=CC(=CC=C1)CC(C)(C)N)=O | C13H19NO2
